US07683091B2
3-[({[1-(4-tert-Butylbenzyl)-1H-indol-5-yl]amino}carbonyl)amino]benzoic acid
The title compound was prepared from 1-(4-tert-butylbenzyl)-1H-indol-5-amine and 3-isocyanato-benzoic acid ethyl ester following the procedure of Example 5: MS (ESI) m/z 442.

reactant | 1-(4-tert-butylbenzyl)-1H-indol-5-amine | C(C)(C)(C)C1=CC=C(CN2C=CC3=CC(=CC=C23)N)C=C1 | C19H22N2
reactant | 3-isocyanato-benzoic acid ethyl ester | C(C)OC(C1=CC(=CC=C1)N=C=O)=O | C10H9NO3
product | 3-[({[1-(4-tert-Butylbenzyl)-1H-indol-5-yl]amino}carbonyl)amino]benzoic acid | C(C)(C)(C)C1=CC=C(CN2C=CC3=CC(=CC=C23)NC(=O)NC=2C=C(C(=O)O)C=CC2)C=C1 | C27H27N3O3
